US04780477
By using isatin and 3-diisopropylaminopropyl chloride hydrochloride, a method analogous to that described in Reference Example 1 was carried out, and the reaction product was purified with silica gel column chromatography (eluent: chloroform/methanol=50/1) and then recrystallized from hexane to obtain 1-(3-diisopropylaminopropyl)isatin having a melting point of 49°-50° C. (yield: 72.9%).

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 3-diisopropylaminopropyl chloride hydrochloride | Cl.C(C)(C)N(CCCCl)C(C)C
product | 1-(3-diisopropylaminopropyl)isatin | yield: 72.9% | C(C)(C)N(CCCN1C(=O)C(=O)C2=CC=CC=C12)C(C)C | C17H24N2O2
